US07553969B1
A mixture of Tyr(3-tBu)-OMe (12 g, 48 mmol) and a 40% methylamine methanol solution (80 ml) was stirred at room temperature for 14 hours. The reaction mixture was concentrated under reduced pressure, giving Tyr(3-tBu)-NHMe (T2) (12 g) as a crude product.

reactant | Tyr(3-tBu)-OMe | 48 mmol, 12 g | N[C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)OC | C14H21NO3
reactant | methylamine methanol | 80 ml | CO.CN
product | Tyr(3-tBu)-NHMe | 12 g | N[C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)NC | C14H22N2O2
